US07517996B2
(Step 1) Synthesis of 3-[4-(5-methoxycarbonyl-1-pentenyl)phenyl]isoxazole-4-carboxylic acid
3-(4-Iodophenyl)isoxazole-4-carboxylic acid (315 mg, 1.0 mmol) was dissolved in a mixed solvent of 1,4-dioxane (5 ml) and diethylisopropylamine (2.5 ml), methyl 5-hexenoate (179 mg, 1.4 mmol), tri-(o-tolyl)phosphine (122 mg, 0.4 mmol) and palladium acetate (22.4 mg, 0.1 mmol) were added, and the mixture was stirred overnight at 100° C. 1N Hydrochloric acid was added, and the mixture was extracted once with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=7:3-6:4) to give the title compound (250 mg, 79%).

reactant | 3-(4-Iodophenyl)isoxazole-4-carboxylic acid | 1.0 mmol, 315 mg | IC1=CC=C(C=C1)C1=NOC=C1C(=O)O | C10H6INO3
reactant | methyl 5-hexenoate | 1.4 mmol, 179 mg | C(CCCC=C)(=O)OC | C7H12O2
reactant | tri-(o-tolyl)phosphine | 0.4 mmol, 122 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | diethylisopropylamine | 2.5 ml | C(C)N(C(C)C)CC | C7H17N
catalyst | palladium acetate | 0.1 mmol, 22.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[4-(5-methoxycarbonyl-1-pentenyl)phenyl]isoxazole-4-carboxylic acid | 250 mg, 79% | COC(=O)CCCC=CC1=CC=C(C=C1)C1=NOC=C1C(=O)O | C17H17NO5
